US04663319
Ethyl 1-benzyl-5-(1,3-dithiol-2-ylidene)-3-methyl-4,6-dioxopiperidine-3-carboxylate (245 mg) is dissolved in ethanol (5 ml), and thereto is added a 10% sodium hydroxide solution (2.5 ml). The mixture is stirred at room temperature overnight. The mixture is acidified with 10% HCl, and poured into water. The aqueous solution is extracted with ethyl acetate. The extract is washed with a saturated sodium chloride solution, dried and then distilled to remove the solvent. The residue is dissolved in ethanol (20 ml) and the solution is refluxed for one hour. The mixture is distilled to remove the solvent. The residue is purified by silica gel column chromatography (solvent, ethyl acetate:n-hexane=1:1), and is recrystallized from a mixture of ethyl acetate and n-hexane to give 1-benzyl-3-(1,3-dithiol-2-ylidene)-5-methyl-2,4-dioxopiperidine (138 mg, 69.1%) as pale yellow needles, m.p. 168°-170° C.

reactant | Ethyl 1-benzyl-5-(1,3-dithiol-2-ylidene)-3-methyl-4,6-dioxopiperidine-3-carboxylate | 245 mg | C(C1=CC=CC=C1)N1CC(C(C(C1=O)=C1SC=CS1)=O)(C(=O)OCC)C | C19H19NO4S2
reactant | sodium hydroxide | 2.5 ml | [OH-].[Na+]
reactant | HCl | Cl | ClH
reactant | water | O | H2O
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 1-benzyl-3-(1,3-dithiol-2-ylidene)-5-methyl-2,4-dioxopiperidine | 138 mg, 69.1% | C(C1=CC=CC=C1)N1C(C(C(C(C1)C)=O)=C1SC=CS1)=O | C16H15NO2S2
